US06147098
b) N-Cyano-N'-[3,5-bis(trifluoromethyl)phenyl]-N"-(1,2-dimethylpropyl)guanidine
A solution of N-[3,5-bis(trifluoromethyl)phenyl]-N'-cyano-O-phenylisourea (0.8 mmol, 300 mg), 3-methyl-2-butylamine (0.88 mmol, 0.101 ml) and triethylamine (0.88 mmol, 0.123 ml) in acetonitrile (2 ml) was stirred for 7 h at 75° C. After concentration the residue was dissolved in ethyl acetate, washed with water, dried (Na2SO4) and concentrated. The residue was purified by column chromatography (heptane:ethyl acetate 4:1) to give the title compound (143 mg, 59%) as white crystals. Mp 134-136° C.; EI SP/MS: 366 (M+); 1H-NMR (CDCl3): δ 0.92 (d, 6H),1.15 (d, 3H), 1.78 (m, 1H), 3.78 (m, 1H), 4.85 (br, 1H), 7.73 (br s, 3H), 8.0 ppm (br, 1H); MA calc for C15H16F6N4 :C, 49.18%; H, 4.40%; N, 15.29%. Found: C, 48.95%; H, 4.38%; N 15.08%.

reactant | N-[3,5-bis(trifluoromethyl)phenyl]-N'-cyano-O-phenylisourea | 0.8 mmol, 300 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(OC1=CC=CC=C1)=NC#N)(F)F | C16H9F6N3O
reactant | 3-methyl-2-butylamine | 0.88 mmol, 0.101 ml | CC(C(C)N)C | C5H13N
reactant | triethylamine | 0.88 mmol, 0.123 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | N-Cyano-N'-[3,5-bis(trifluoromethyl)phenyl]-N"-(1,2-dimethylpropyl)guanidine | 143 mg, 59% | C(#N)NC(=NC(C(C)C)C)NC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C15H16F6N4
